US07943619B2
c) 6-[(5-Methyl-3-phenyl-isoxazol-4-ylmethyl)-amino]-pyridazine-3-carboxylic acid cyclopropylmethyl-amide
To a solution of aminomethylcyclopropane (0.11 mL, 1.2 mmol) in dioxane (5 mL) was added dropwise trimethylaluminum solution (2 M solution in hexane, 0.62 mL, 1.24 mmol). After stirring for 1 h at room temperature a suspension of 6-[(5-methyl-3-phenyl-isoxazol-4-ylmethyl)-amino]-pyridazine-3-carboxylic acid methyl ester (100 mg, 0.3 mmol) in dioxane (5 mL) was added. The reaction mixture was stirred at 90° C. for 2 h, cooled to room temperature and poured into water. Extraction (ethyl acetate/saturated aqueous Seignette salt solution) followed by drying of the organic phase over sodium sulfate and evaporation afforded an oil. Purification by chromatography (SiO2, heptane:ethyl acetate=100:0 to 0:100) afforded the title compound (60 mg, 54%) which was obtained as a light yellow foam. MS: m/e=364.5 [M+H]+.

reactant | aminomethylcyclopropane | 1.2 mmol, 0.11 mL | NCC1CC1 | C4H9N
reactant | trimethylaluminum | 1.24 mmol, 2 M, 0.62 mL | C[Al](C)C
reactant | 6-[(5-methyl-3-phenyl-isoxazol-4-ylmethyl)-amino]-pyridazine-3-carboxylic acid methyl ester | 0.3 mmol, 100 mg | COC(=O)C=1N=NC(=CC1)NCC=1C(=NOC1C)C1=CC=CC=C1 | C17H16N4O3
reactant | water | O | H2O
solvent | dioxane | 5 mL | O1CCOCC1 | C4H8O2
solvent | dioxane | 5 mL | O1CCOCC1 | C4H8O2
product | 6-[(5-Methyl-3-phenyl-isoxazol-4-ylmethyl)-amino]-pyridazine-3-carboxylic acid cyclopropylmethyl-amide | 60 mg, 54% | C1(CC1)CNC(=O)C=1N=NC(=CC1)NCC=1C(=NOC1C)C1=CC=CC=C1 | C20H21N5O2
